US07037905B2
2-(3-Chloro-4-fluorophenyl)-5,5-dimethyl-[1,3,2]dioxaborinane
The title compound (80%, crystalsl) was prepared from 3-chloro-4-fluorophenylboronic acid and neopentylglycol.

reactant | 3-chloro-4-fluorophenylboronic acid | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
reactant | neopentylglycol | CC(C)(CO)CO | C5H12O2
product | 2-(3-Chloro-4-fluorophenyl)-5,5-dimethyl-[1,3,2]dioxaborinane | 80% | ClC=1C=C(C=CC1F)B1OCC(CO1)(C)C | C11H13BClFO2
